US04215047
Nα -carbobenzoxy-L-arginine hydrochloric acid salt (69.0 g, 0.2 M) and 7-amino-4-methylcoumarin (17.5 g, 0.1 M) were dissolved in dimethylformamide (DMF) (300 ml). Dicyclohexylcarbodiimide (DCCD) (21 g, 0.1 M) was added to the mixture with stirring at room temperature. This mixture was stirred overnight at room temperature, and the produced dicyclohexyl urea was removed by filtration. The obtained filtrate was concentrated under reduced pressure and to the thus obtained residue methyl alcohol (50 ml) and ethyl acetate (500 ml) were added. The precipitated material was separated by filtration to give crude crystals (19 g). These crystals were dissolved in a mixture of heated DMF (30 ml) and heated methyl alcohol (100 ml) and insoluble material was removed by filtration. To the filtrate ethyl acetate (400 ml) was added and the thereby precipitated white crystals were separated by filtration and dried to give 7-(Nα -carbobenzoxy-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt (14.5 g, yield: 29%).

reactant | Nα -carbobenzoxy-L-arginine hydrochloric acid salt | 0.2 M, 69.0 g | Cl.C(=O)(OCC1=CC=CC=C1)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | 7-amino-4-methylcoumarin | 0.1 M, 17.5 g | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | Dicyclohexylcarbodiimide | 0.1 M, 21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methyl alcohol | 100 ml | CO | CH4O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
product | 7-(Nα -carbobenzoxy-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt | 14.5 g, yield: 29% | Cl.C(=O)(OCC1=CC=CC=C1)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C | InChI=1S/C24H27N5O5.ClH/c1-15-12-21(30)34-20-13-17(9-10-18(15)20)28-22(31)19(8-5-11-27-23(25)26)29-24(32)33-14-16-6-3-2-4-7-16;/h2-4,6-7,9-10,12-13,19H,5,8,11,14H2,1H3,(H,28,31)(H,29,32)(H4,25,26,27);1H/t19-;/m0./s1
